US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-ethyl-3-methylnaphthalen-2-yl)acetic acid (129):
A suspension of 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-4-vinylnaphthalen-2-yl)acetic acid (5.0 mg, 12 μmol), 5% w/w Rh/Al2O3 (10 mg), and EtOH (absolute, 2.0 mL) was evacuated and purged several times (vaccuum/H2 balloon). The suspension was rapidly stirred under a balloon of H2 for 6 h. H2O (500 μL) was added and the reaction was filtered through a 0.45 micron filter. The filtrate was directly purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA). The product-containing fractions were combined and lyophilized, giving the title compound (parent form) 1H NMR (400 MHz, DMSO-d6) δ 12.71 (s, broad, 1H), 8.13 (d, J=8.2 Hz, 1H), 7.70-7.62 (m, 2H), 7.60-7.47 (m, 2H), 7.34-7.33 (m, 2H), 7.20 (d, J=8.2 Hz, 1H), 5.06 (s, 1H), 3.40-3.20 (m, 2H), 1.25 (t, J=7.4 Hz, 3H), 0.93 (s, 9H). LCMS-ESI− (m/z): [2M-2H+Na]− calcd for C50H52Cl2NaO6: 841.3; Found: 841.3.

reactant | 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-4-vinylnaphthalen-2-yl)acetic acid | 12 μmol, 5.0 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC=C2C(=C1C)C=C)C1=CC=C(C=C1)Cl | C25H25ClO3
catalyst | Rh/Al2O3 | 10 mg | [Rh] | Rh
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-ethyl-3-methylnaphthalen-2-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC=C2C(=C1C)CC)C1=CC=C(C=C1)Cl | C25H27ClO3
